US06087392
Chlorosulfonic acid (9.7 mL, 0.147 mole) was added dropwise to 4-chlorophenoxybenzene (12.6 mL, 73.4 mmole) at room temperature with stirring. When addition was complete, the mixture was stirred at room temperature for 1 hour and then poured into ice water. The solid was collected by filtration, dried in the air, and recrystallized from petroleum ether and ethyl acetate to give 4-(4-chlorophenoxy)benzenesulfonylchloride (7.43 grams, 33%).

reactant | Chlorosulfonic acid | 0.147 mole, 9.7 mL | ClS(=O)(=O)O | ClHO3S
reactant | 4-chlorophenoxybenzene | 73.4 mmole, 12.6 mL | ClC1=CC=C(OC2=CC=CC=C2)C=C1 | C12H9ClO
product | 4-(4-chlorophenoxy)benzenesulfonylchloride | 7.43 grams, 33% | ClC1=CC=C(OC2=CC=C(C=C2)S(=O)(=O)Cl)C=C1 | C12H8Cl2O3S
